US07829560B2
N-[4-(2-Chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide (100 mg, 234 mmol) and 4-hydroxypiperidine (118 mg, 1.17 mmol) in acetone (3 ml) and dimethylsulfoxide (1 ml) are heated to 180° C. with microwave irradiation for 20 min. After cooling to room temperature the mixture is poured into ethyl acetate (100 ml) and washed with water (100 ml). The organic layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is purified by column chromatography on silica gel eluted with ethyl acetate followed by 10% methanol in dichloromethane to give 3-fluoro-N-{4-[2-(4-hydroxypiperidin-1-yl)-ethoxy]-naphthalen-1-yl}-5-piperidin-1-yl-benzamide as a colorless foam (85 mg). 1H NMR 300 MHz (CDCl3) 8.31 (dd, 1H, J=1.8 and 8.4 Hz), 7.9 (s, 1H), 7.83 (d, 1H, J=7.2 Hz), 7.71 (d, 1H, J=8.4 Hz), 7.53 (m, 2H), 7.31 (s, 1H), 6.98 (d, 1H, J=9 Hz), 6.83 (d, 1H, J=8.4 Hz), 6.76 (d, 1H, J=12.3 Hz), 4.23 (t, 2H, J=5.7 Hz), 3.74 (m, 1H), 3.01 (s, 4H), 2.98 (m, 4H), 2.42 (t, 2H, J=9.5 Hz), 1.95 (m, 2H), 1.57-1.71 (m, 8H).

reactant | N-[4-(2-Chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | 234 mmol, 100 mg | ClCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C24H24ClFN2O2
reactant | 4-hydroxypiperidine | 1.17 mmol, 118 mg | OC1CCNCC1 | C5H11NO
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 3-fluoro-N-{4-[2-(4-hydroxypiperidin-1-yl)-ethoxy]-naphthalen-1-yl}-5-piperidin-1-yl-benzamide | 85 mg | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCC(CC2)O)C=C(C1)N1CCCCC1 | C29H34FN3O3
